US03991200
Preparation of 2-(2-Hydroxymethylamino-5-thiadiazolyl)-1-methyl-5-nitroimidazole
A suspension of 5 g. of 2-(2-amino-5-thiadiazolyl)-1-methyl-5-nitroimidazole in 200 ml. of 36% aqueous formaldehyde solution is stirred for 20 hours at room temperature. The suspension is cooled in ice, and the insoluble solid is collected by filtration and washed with acetone. The yield of the title compound is 6.15 g., melting point 177° C. with decomposition (rapid heating).

reactant | 2-(2-amino-5-thiadiazolyl)-1-methyl-5-nitroimidazole | NN1SC(=CN1)C=1N(C(=CN1)[N+](=O)[O-])C | C6H8N6O2S
reactant | formaldehyde | C=O | CH2O
product | 2-(2-Hydroxymethylamino-5-thiadiazolyl)-1-methyl-5-nitroimidazole | OCNN1SC(=CN1)C=1N(C(=CN1)[N+](=O)[O-])C | C7H10N6O3S
